US09029504B2
Sodium hydride (60%, 652 mg, 16.3 mmol) washed with hexane was suspended in toluene (3 ml), 1,12-dodecanediol (1.50 g, 7.41 mmol) was added, 1,12-dibromododecane (6.08 g, 18.5 mmol) was added, and the mixture was stirred at 80° C. for 4 days. The reaction mixture was cooled to room temperature, and pure water (30 ml) was added dropwise thereto in a water bath to quench the reaction. The mixture was extracted with chloroform (100 ml), and washed 3 times with 1N hydrochloric acid (30 ml), 3 times with 5% aqueous sodium hydrogen carbonate solution (30 ml), and once with 20% aqueous sodium chloride solution (30 ml). The organic layer was dried over sodium sulfate and the solvent of the filtrate was evaporated. The residue was isolated and purified by silica gel column chromatography, and precipitated with methanol (50 ml) to give 1,12-bis-(12-bromododecyloxy)-dodecane (yield 56%).

reactant | Sodium hydride | 16.3 mmol, 652 mg | [H-].[Na+]
reactant | 1,12-dodecanediol | 7.41 mmol, 1.50 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | 1,12-dibromododecane | 18.5 mmol, 6.08 g | BrCCCCCCCCCCCCBr | C12H24Br2
reactant | water | 30 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1,12-bis-(12-bromododecyloxy)-dodecane | yield 56% | BrCCCCCCCCCCCCOCCCCCCCCCCCCOCCCCCCCCCCCCBr | C36H72Br2O2
